US06107458
To a solution of titanium(IV) chloride (11.6 g) in dichloromethane (100 ml) was added 4-n-Pentyloxyacetophenone (10.3 g) and Methyl 4-formylbenzoate (8.21 g) in dichloromethane (50 ml) dropwise at 0° C. To the mixture was added triethylamine (11.15 ml) in dichloromethane (30 ml). The mixture was stirred at 0° C. for 30 minutes and diluted with n-hexane. The organic layer was washed with water (four times), brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with iso-propyl ether. The solid was collected by filtration and dried to give 1-(4-Methoxycarbonylphenyl)-3-(4-n-pentyloxyphenyl)-1-propen-3-one (4.02 g).

reactant | 4-n-Pentyloxyacetophenone | 10.3 g | CCCC(C)OCC(=O)C1=CC=CC=C1 | C13H18O2
reactant | Methyl 4-formylbenzoate | 8.21 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | triethylamine | 11.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
catalyst | titanium(IV) chloride | 11.6 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1-(4-Methoxycarbonylphenyl)-3-(4-n-pentyloxyphenyl)-1-propen-3-one | 4.02 g | COC(=O)C1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)OCCCCC | C22H24O4
